.include data.net
*
* Circuit simulator for t1
*
* NGSPICE simulation script
* BJT amp with feedback
*
*CIRCUITO
.options savecurrents

* Boundary Conditions
.ic V(6)=5.528929 V(9)=-2.77468

* supply voltage
Vs 1 0 Vss ac 0.0 sin(0 1 6283.185307)

* Resistances
R1 1 2 RR1
R2 2 3 RR2
R3 2 5 RR3
R4 0 5 RR4
R5 5 6 RR5
R6 0 7 RR6
R7 9 8 RR7

* Voltage Sources
Vee 7 9 0
Hc 5 8 Vee Kd

* Current Sources
Gb 6 3 2 5 Kb

* Capacitors
C 6 8 Cc


*Control commads
.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

print @R1[i]

echo  "op_TAB"
print all
echo  "op_END"


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy fs.ps v(6)
echo fs_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

*ac dec 10 10 100MEG

hardcopy npfs.ps v(6)
echo npfs_FIG

*plot v(6)

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 1e-1 1MEG

hardcopy fr.ps v(6) V(1)
echo fr_FIG

*plot v(6)

quit
.endc

.end